US06933311B2
ethyl 2-(5-isoquinolinyl)-2-methylpropanoate
The title compound was prepared using the procedure described in Example 248 using ethyl 2-(5-isoquinolinyl)propanoate instead of ethyl 5-isoquinolinylacetate. MS (ESI+) m/z 244 (M+H)+; MS (ESI−) m/z 242 (M−H)−; 1H NMR (DMSO, 300 MHz) rotamers δ 0.98, 1.08 (t, J 7.1, 3H), 1.67 (s, 6H), 4.58 (q, J 7.1, 1H), 7.53 (m, 1H), 7.82 (m, 1H), 7.97 (m, 1H), 8.05 (m, 1H), 8.55, 8.50 (d, J 6.1, 1H), 9.33 (s, 1H).

reactant | ethyl 2-(5-isoquinolinyl)propanoate | C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)C | C14H15NO2
reactant | DMSO | CS(=O)C | C2H6OS
product | ethyl 2-(5-isoquinolinyl)-2-methylpropanoate | C1=NC=CC2=C(C=CC=C12)C(C(=O)OCC)(C)C | C15H17NO2
